US08471004B2
B) (3S,6S,8aR)-3-[2-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-ethyl]-6,8a-dimethyl-hexahydro-oxazolo[3,2-a]pyrazin-5-one
A solution of (3S,6S,8aR)-7-benzyl-3-[2-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-ethyl]-6,8a-dimethyl-hexahydro-oxazolo[3,2-a]pyrazin-5-one (160 mg, 0.39 mmol) in EtOH (3 mL) was stirred at 50° C. for 3 h under a hydrogen atmosphere (3 bar) in the presence of palladium (10% on activated charcoal, 63 mg), then insoluble material was removed by filtration through diatomaceous earth. The filtrate was evaporated to afford the title compound (104 mg, 83%). Off-white foam, MS: 324.5 (M+H)+.

reactant | (3S,6S,8aR)-7-benzyl-3-[2-((S)-4-hydroxy-6-aza-spiro[2.5]oct-6-yl)-ethyl]-6,8a-dimethyl-hexahydro-oxazolo[3,2-a]pyrazin-5-one | 0.39 mmol, 160 mg | C(C1=CC=CC=C1)N1C[C@@]2(N(C([C@@H]1C)=O)[C@H](CO2)CCN2C[C@H](C1(CC1)CC2)O)C | C24H35N3O3
solvent | EtOH | 3 mL | CCO | C2H6O
catalyst | palladium | 63 mg | [Pd] | Pd
product | (3S,6S,8aR)-3-[2-((S)-4-Hydroxy-6-aza-spiro[2.5]oct-6-yl)-ethyl]-6,8a-dimethyl-hexahydro-oxazolo[3,2-a]pyrazin-5-one | 104 mg, 83% | O[C@H]1C2(CC2)CCN(C1)CC[C@H]1CO[C@]2(N1C([C@@H](NC2)C)=O)C | C17H29N3O3
